US06686353B1
Preparation of 1-(4-Cyanobenzyl )piperazine
To a solution of piperazine (5.17 g, 60 mmol, 2 equiv) in EtOH (40 mL) was added 1 M HCl-EtOH (60 mL) dropwise over 1 h and the suspension was heated to 70° C. for 1 h. α-Bromo-p-tolunitrile (5.88 g, 30 mmol, 1 equiv) was added and the reaction was heated to reflux for 16 h. After cooling the solvent was removed by rotary evaporation and the residue was partitioned between CH2Cl2 (70 mL) and 2N aqueous KOH (70 mL) and the combined organic phase was washed with saturated aqueous NaCl (100 mL) and dried (MgSO4). Chromatography (SiO2, 20% CH3OH-5% Et3N-CH2Cl2) afforded the monoalkylated material (2.6 g, 6.0 g theoretical, 43%) as an amber oil.

reactant | piperazine | 60 mmol, 5.17 g, 2 equiv | N1CCNCC1 | C4H10N2
reactant | HCl EtOH | 1 M, 60 mL | Cl.CCO
reactant | α-Bromo-p-tolunitrile | 30 mmol, 5.88 g, 1 equiv | BrCC1=CC=C(C=C1)C#N | C8H6BrN
solvent | EtOH | 40 mL | CCO | C2H6O
product | 1-(4-Cyanobenzyl )piperazine | C(#N)C1=CC=C(CN2CCNCC2)C=C1 | C12H15N3
